US06051570
2-[[(3-Methyl)pyridin-2-yl]methylthio]-6-fluoro-5-(4-methylpiperazin-1-yl)-1H-benzimidazole:
The title compound (0.6 g, 22%) was prepared by the general procedure using 6-fluoro-5-(4-methylpiperazin-1-yl)-2-mercapto-1H-benzimidazole (2.0 g, 7.5 mmol) (obtained in preparation 4), 3-methyl-2-chloromethylpyridine hydrochloride (1.0 g, 7.5 mmol), sodium hydroxide (0.36 g, 9.0 mmol) and ethanol (15 mL). IR (Neat) 3150, 1429 cm-1 ; 1H NMR (CDCl3) δ 2.42 (s, 3H, CH3), 2.50 (s, 3H, CH3), 2.90 (m, 4H, N(CH2)2), 3.20 (m, 4H, N(CH2)2), 4.38 (s, 2H, SCH2), 7.12 (d, J=7.6 Hz, 1H), 7.20-7.26 (m, 2H), 7.58 (d, J=7.4 Hz, 1H), 8.46 (d, J=4.6 Hz, 1H); Mass (m/z) 371 (M+.).

reactant | 6-fluoro-5-(4-methylpiperazin-1-yl)-2-mercapto-1H-benzimidazole | 7.5 mmol, 2.0 g | FC=1C(=CC2=C(NC(=N2)S)C1)N1CCN(CC1)C | C12H15FN4S
reactant | 3-methyl-2-chloromethylpyridine hydrochloride | 7.5 mmol, 1.0 g | Cl.CC=1C(=NC=CC1)CCl
reactant | sodium hydroxide | 9.0 mmol, 0.36 g | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-[[(3-Methyl)pyridin-2-yl]methylthio]-6-fluoro-5-(4-methylpiperazin-1-yl)-1H-benzimidazole | 0.6 g, 22% | CC=1C(=NC=CC1)CSC1=NC2=C(N1)C=C(C(=C2)N2CCN(CC2)C)F | C19H22FN5S
